US07511035B2
(b) 2-[2-(2-oxo-1-piperazinyl)ethyl]-1H-isoindole-1,3(2H)-dione
To a solution of 2-chloro-N,N-bis[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]acetamide (2 g, 4.55 mmol) in EtOH (230 mL) was added hydrazine hydrate (213 μL, 6.83 mmol). After 12 h at 85° C., the solution was concentrated and the residue purified via column chromatography (silica, 3% MeOH in DCM (1% NH4OH)) yielding the title compound (428 mg, 34%) as a yellow foam: LCMS (ES) m/e 274 (M+H)+.

reactant | 2-chloro-N,N-bis[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]acetamide | 4.55 mmol, 2 g | ClCC(=O)N(CCN1C(C2=CC=CC=C2C1=O)=O)CCN1C(C2=CC=CC=C2C1=O)=O | C22H18ClN3O5
reactant | hydrazine hydrate | 6.83 mmol, 213 μL | O.NN
solvent | EtOH | 230 mL | CCO | C2H6O
product | 2-[2-(2-oxo-1-piperazinyl)ethyl]-1H-isoindole-1,3(2H)-dione | 428 mg, 34% | O=C1N(CCNC1)CCN1C(C2=CC=CC=C2C1=O)=O | C14H15N3O3
